US06489314B1
(c) 2-methyl-3-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazol-4-yl)propenal
A mixture of 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxaldehyde (21.0 g) and 2-(triphenylphosphoranylidene)propionaldehyde (20.6 g) in 300 mL of benzene is heated at reflux for 3 hours, then cooled to ambient temperature and concentrated. Purification by flash column chromatography on SiO2 (hexanes/ethyl acetate, 4:1) yields the product as a clear oil.

reactant | 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxaldehyde | 21.0 g | ClC(COC(=O)OCC=1SC=C(N1)C=O)(Cl)Cl | C8H6Cl3NO4S
reactant | 2-(triphenylphosphoranylidene)propionaldehyde | 20.6 g | C1(=CC=CC=C1)P(=C(C=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 2-methyl-3-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazol-4-yl)propenal | CC(C=O)=CC=1N=C(SC1)COC(=O)OCC(Cl)(Cl)Cl | C11H10Cl3NO4S
